US04421550
2-[[(5-Methoxy-1-methyl-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
To a solution of 2-(methoxycarbonyl)benzenesulfonylisocyanate (80%, 1.41 g, 4.7 mmol) in methylene chloride (10 ml) at room temperature under nitrogen was added 3-amino-5-methoxy-1-methyl-1H-1,2,4-triazole (0.50 g, 3.9 mmol). DABCO (catalytic amount) was added, and the reaction mixture was stirred for 3 days. Isolation of the product by filtration and washing with methylene chloride gave 1.05 g of a white powder, m.p. 177°-180°.

reactant | 2-(methoxycarbonyl)benzenesulfonylisocyanate | 4.7 mmol, 1.41 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 3-amino-5-methoxy-1-methyl-1H-1,2,4-triazole | 3.9 mmol, 0.50 g | NC1=NN(C(=N1)OC)C | C4H8N4O
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[[(5-Methoxy-1-methyl-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 1.05 g | COC1=NC(=NN1C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H15N5O6S
